US06376672B1
In analogy to the procedure described in example 1) (1) the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-[1,2,4]triazol-1-yl-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl in methanol to yield the (R)-1-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-3-[1,2,4]triazol-1-yl-propan-2-ol as colorless oil; MS: 684 (M+H)+.

reactant | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-[1,2,4]triazol-1-yl-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H](CN1N=CN=C1)O | C42H49N5O10
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-1-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-3-[1,2,4]triazol-1-yl-propan-2-ol | COC1=CC(=CC2=CC=CC=C12)CO[C@@H]1[C@H]([C@@H](CNC1)OC[C@@H](CN1N=CN=C1)O)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C37H41N5O8
